US04358593
6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene
Twenty g. of 6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophene was dissolved in 400 ml. of pyridine, together with 23.4 g. of methanesulfonyl chloride and 50 mg. of 4-dimethylaminopyridine. The mixture was stirred under a nitrogen blanket overnight at ambient temperature, and was then poured into 2 liters of water and stirred vigorously. The solids were collected by filtration, and washed successively with water, methanol and diethyl ether. The washed solids were then vacuum dried at 60° to obtain 32.5 g. of the desired intermediate product, m.p. 195°-197°.

reactant | 6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophene | OC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)O)C1 | C14H10O2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 2 liters | O | H2O
product | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene | CS(=O)(=O)OC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | C16H14O6S3
